US05214156
The resolution is performed on 8-methoxy-2-(benzylamino)tetralin with the aid of (-)-di-p-toluoyltartaric acid according to Karlsson, et al., Acta Chem. Scand., B 42, 231-236 (1988). The enantiomers of 8-methoxy-2-(benzylamino)tetralin are debenzylated, yielding the corresponding enantiomers of 8-methoxy-2-aminotetralin, i.e., R-(+)- and S-(-)-8-methoxy-2-aminotetralin.

reactant | (-)-di-p-toluoyltartaric acid | C1(=CC=C(C=C1)C(=O)C(C(C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
reactant | 8-methoxy-2-(benzylamino)tetralin | COC=1C=CC=C2CCC(CC12)NCC1=CC=CC=C1 | C18H21NO
product | 8-methoxy-2-aminotetralin | COC=1C=CC=C2CCC(CC12)N | C11H15NO
